US08227481B2
4-[3-(4-Bromo-2-methyl-phenylamino)-propyl]-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester
2-Methyl-4-bromo-aniline (1.68 g, 9.05 mmol, 1 eq) was dissolved in 1,2-dichloroethane (95 mL). A solution of 4-(3-Oxo-propyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (2.8 g, 9.05 mmol, 1 eq) in 95 mL of 1,2-dichloroethane was added to the previous solution followed by glacial acetic anhydride (1.74 g, 28.05 mol, 3.1 eq) and NaBH(OAc)3 (5.76 g, 27.15 mmol, 3 eq). The reaction mixture was stirred for 48 h, quenched with 200 mL of water, transferred to a separatory funnel and extracted with dichloromethane (2×100 mL). The combined organics were dried over Na2SO4 and purified by column chromatography on silica gel (200 g column, 25% EtOAc in heptanes; 50 mL/min). This gave 3.78 g (86%) of the title compound as a beige gum.

reactant | 2-Methyl-4-bromo-aniline | 9.05 mmol, 1.68 g, 1 eq | CC1=C(N)C=CC(=C1)Br | C7H8BrN
reactant | 4-(3-Oxo-propyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 9.05 mmol, 2.8 g, 1 eq | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CCC=O | C16H27NO5
reactant | acetic anhydride | 28.05 mol, 1.74 g, 3.1 eq | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaBH(OAc)3 | 27.15 mmol, 5.76 g, 3 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,2-dichloroethane | 95 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 95 mL | ClCCCl | C2H4Cl2
product | 4-[3-(4-Bromo-2-methyl-phenylamino)-propyl]-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CCCNC1=C(C=C(C=C1)Br)C | C23H35BrN2O4
